* Subcircuit and_gate

.lib "~/eSim-Workspace/prelayout/sky130_fd_pr/models/sky130.lib.spice" tt

.subckt and_gate net-_m1-pad2_ net-_m3-pad2_ net-_m5-pad1_ 

xm2  net-_m1-pad3_ net-_m1-pad2_ net-_m2-pad3_ net-_m2-pad3_ sky130_fd_pr__nfet_01v8 w=1u l=0.5u m=1u
xm3  net-_m2-pad3_ net-_m3-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 w=1u l=0.5u m=1u
xm1  net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad1_ sky130_fd_pr__pfet_01v8 w=1 l=0.5 m=1
xm4  net-_m1-pad1_ net-_m3-pad2_ net-_m1-pad3_ net-_m1-pad1_ sky130_fd_pr__pfet_01v8 w=1 l=0.5 m=1
xm5  net-_m5-pad1_ net-_m1-pad3_ gnd gnd sky130_fd_pr__nfet_01v8 w=1u l=0.5u m=1u
xm6  net-_m1-pad1_ net-_m1-pad3_ net-_m5-pad1_ net-_m1-pad1_ sky130_fd_pr__pfet_01v8 w=1 l=0.5 m=1
v1  net-_m1-pad1_ gnd 3.3v
* Control Statements

.ends and_gate
